US07402672B2
2-(Diethoxymethyl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylic acid 1,1-dimethylethyl ester, 8b-1 (Scheme 3, step h)
Heat a solution of (3-iodo-pyridin-4-yl)carbamic acid 1,1-dimethylethyl ester (13.3 g, 41.56 mmol, Darnbrough, Shelley; Mervic, Miljenko; Condon, Stephen M.; Burns, Christopher J. Synthetic Communications (2001) 31(21), 3273-3280), 3,3-diethoxy-1-propyne (5.96 ml, 41.56 mmole), triethylamine (23 ml, 166 mmol), dichlorobis(triphenyl-phospine)palladium(II) (1.46 g, 2.08 mmol) and copper iodide (237 mg, 1.25 mmol) in dry DMF under argon to 90° C. for 3 h. Allow the reaction mixture to cool to 70° C. and add DBU (12.5 ml, 83.12 mmol). Stir the reaction at 70° C. for 3 h and then stir at room temperature overnight. Pour the reaction mixture into EtOAc, wash with water (2×) and brine, dry over MgSO4, filter and concentrate to give the title compound as an oil. Purify the oil by flash chromatography (silica, elute with 10-20% EtOAc/n-heptane) to provide 9.8 g of the title compound as a clear oil, tlc (silica, 30% EtOAc/heptane, Rf=0.30).

reactant | (3-iodo-pyridin-4-yl)carbamic acid 1,1-dimethylethyl ester | 41.56 mmol, 13.3 g | CC(C)(C)OC(NC1=C(C=NC=C1)I)=O | C10H13IN2O2
reactant | 3,3-diethoxy-1-propyne | 41.56 mmole, 5.96 ml | C(C)OC(C#C)OCC | C7H12O2
reactant | triethylamine | 166 mmol, 23 ml | C(C)N(CC)CC | C6H15N
reactant | DBU | 83.12 mmol, 12.5 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMF | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenyl-phospine)palladium(II) | 2.08 mmol, 1.46 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper iodide | 1.25 mmol, 237 mg | [Cu](I)I
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(Diethoxymethyl)-1H-pyrrolo[3,2-c]pyridine-1-carboxylic acid 1,1-dimethylethyl ester | CC(C)(C)OC(=O)N1C(=CC=2C=NC=CC21)C(OCC)OCC | C17H24N2O4
